US07041685B2
5-(3-Bromo-furan-2-yl)-3-(4-chloro-phenyl)-[1,2,4]-oxadiazole
The title compound was prepared from 4-chlorobenzamidoxime (479 mg, 2.29 mmol) and 3-bromo-furan-2-carbonyl chloride (390 mg, 2.29 mmol) similar to Example 16, and yielded 570 mg (81%) of white solid. 1H NMR (CDCl3): 8.13 (dd, J=8.80, 2.20 Hz, 2H), 7.67 (d, J=1.92 Hz, 1H), 7.49 (dd, J=8.79, 2.20 Hz, 2H), 6.75 (d, J=1.92 Hz, 1H).

reactant | 4-chlorobenzamidoxime | 2.29 mmol, 479 mg | ClC1=CC=C(C(N)=NO)C=C1 | C7H7ClN2O
reactant | 3-bromo-furan-2-carbonyl chloride | 2.29 mmol, 390 mg | BrC1=C(OC=C1)C(=O)Cl | C5H2BrClO2
product | 5-(3-Bromo-furan-2-yl)-3-(4-chloro-phenyl)-[1,2,4]-oxadiazole | BrC1=C(OC=C1)C1=NC(=NO1)C1=CC=C(C=C1)Cl | C12H6BrClN2O2
